US07947738B2
(32-a) Methyl cyclobutylideneacetate
Sodium hydride (>65% oil, 3.62 g, 95 mmol) was added to a tetrahydrofuran solution (200 mL) of trimethyl phosphonoacetate (18.21 g, 100 mmol) under ice cooling, and the mixture was stirred for 1 hour. To the reaction solution, a tetrahydrofuran solution (50 mL) of cyclobutanone (5.00 g, 71.4 mmol) was added dropwise, and the mixture was then brought to room temperature and stirred for 1.5 hours. To the reaction solution, a saturated aqueous solution of ammonium chloride was added, followed by extraction with hexane. The organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain the compound of interest as a pale yellow oil substance (18.94 g, <100%).

reactant | Sodium hydride | 95 mmol, 3.62 g | [H-].[Na+]
reactant | trimethyl phosphonoacetate | 100 mmol, 18.21 g | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | cyclobutanone | 71.4 mmol, 5.00 g | C1(CCC1)=O | C4H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | Methyl cyclobutylideneacetate | C1(CCC1)=CC(=O)OC | C7H10O2
